US04822946
In a flask fitted with a strirrer 500 ml of water is heated to 110° C., and 250 g of cumyl chloride is added dropwise over a period of 6 h. Continuous distillation is carried out through the column described in Example 1, yielding 166 g of alpha-methylstyrene and 190 ml of water.

reactant | cumyl chloride | 250 g | C(C)(C)(C1=CC=CC=C1)Cl | C9H11Cl
solvent | water | 500 ml | O | H2O
product | alpha-methylstyrene | 166 g | CC(=C)C1=CC=CC=C1 | C9H10
